US06114358
2-Aminomethyl-4-cyanothiophene
4-Cyanothiophene-2-carbaldehyde oxime 11.6 g (84.6 mmol) of 4-cyanothiophene-2-carbaldehyde were dissolved in 140 ml of methanol, and 12.3 g (116.1 mmol) of sodium carbonate were added. Then 6.5 [lacuna] (93.5 mmol) of hydroxylamine hydrochloride were added in portions while cooling at 15° C., and the mixture was stirred at 10° C. for 2 h. After addition of 80 ml of water, the reaction mixture was extracted five times with 50 ml of diethyl ether each time, the organic phase was dried over sodium sulfate, and the solvent was removed under reduced pressure to result in 12.5 g of the required product as yellow crystalline powder (96% of theory).

reactant | 4-Cyanothiophene-2-carbaldehyde oxime | 84.6 mmol, 11.6 g | C(#N)C=1C=C(SC1)C=NO | C6H4N2OS
reactant | 4-cyanothiophene-2-carbaldehyde | C(#N)C=1C=C(SC1)C=O | C6H3NOS
reactant | sodium carbonate | 116.1 mmol, 12.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 93.5 mmol | Cl.NO
solvent | methanol | 140 ml | CO | CH4O
solvent | water | 80 ml | O | H2O
product | 2-Aminomethyl-4-cyanothiophene | 12.5 g, 96% | NCC=1SC=C(C1)C#N | C6H6N2S
